US04178168
2-Nitrophenol, 3-bromopropyl methyl ether, anhydrous potassium carbonate and acetone were reacted according to the procedure outlined in Example 1 to yield 2-methoxypropoxynitrobenzene, which was reduced to the corresponding aniline. The aniline was isolated by vacuum distillation.

reactant | 2-Nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | 3-bromopropyl methyl ether | COCCCBr | C4H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-methoxypropoxynitrobenzene | COC(COC1=C(C=CC=C1)[N+](=O)[O-])C | C10H13NO4
